US04293328
Methylene chloride (20 ml) and sulfuryl chloride (5.40 g) are added to N-(5-t-butyl-3-isoxazolyl)cyclopropanecarboxamide (4.17 g) and refluxed with heating for 1.5 hours. The methylene chloride and the unreacted sulfuryl chloride are evaporated under reduced pressure. The residue is chromatographed on a column of silica gel and recrystallized from benzene to give N-(5-t-butyl-4-chloro-3-isoxazolyl)cyclopropanecarboxamide (4.10 g) as colorless needles melting at 129.5° to 131.0° C.

reactant | sulfuryl chloride | 5.40 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | N-(5-t-butyl-3-isoxazolyl)cyclopropanecarboxamide | 4.17 g | C(C)(C)(C)C1=CC(=NO1)NC(=O)C1CC1 | C11H16N2O2
solvent | Methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(5-t-butyl-4-chloro-3-isoxazolyl)cyclopropanecarboxamide | 4.10 g | C(C)(C)(C)C1=C(C(=NO1)NC(=O)C1CC1)Cl | C11H15ClN2O2
